US08383139B2
N′-[4-{(3-[1-(4-Chlorophenyl)cyclopropyl]-1,2,4-thiadiazol-5-yl}oxy)-2,5-dimethylphenyl]-N-ethyl-N-methylimidoformamide
0.30 g (0.81 mmol) of 4-({3-[1-(4-chlorophenyl)cyclopropyl]-1,2,4-thiadiazol-5-yl}oxy)-2,5-dimethylaniline is dissolved in 3 ml of toluene and 0.75 ml of methanol and treated with 0.32 g (2.42 mmol) of N-ethyl-N-methylformamide dimethylacetal. The reaction mixture is refluxed for 18 h, subsequently cooled, freed from the solvent under vacuum and purified by column chromatography. 0.22 g of product is obtained (99.3% purity, 61.7% yield; log P (pH2.3)=2.28).

reactant | 4-({3-[1-(4-chlorophenyl)cyclopropyl]-1,2,4-thiadiazol-5-yl}oxy)-2,5-dimethylaniline | 0.81 mmol, 0.30 g | ClC1=CC=C(C=C1)C1(CC1)C1=NSC(=N1)OC1=CC(=C(N)C=C1C)C | C19H18ClN3OS
reactant | methanol | 0.75 ml | CO | CH4O
reactant | N-ethyl-N-methylformamide dimethylacetal | 2.42 mmol, 0.32 g | COC(N(C)CC)OC | C6H15NO2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N′-[4-{(3-[1-(4-Chlorophenyl)cyclopropyl]-1,2,4-thiadiazol-5-yl}oxy)-2,5-dimethylphenyl]-N-ethyl-N-methylimidoformamide | 0.22 g, 61.7% yield | ClC1=CC=C(C=C1)C1(CC1)C1=NSC(=N1)OC1=CC(=C(C=C1C)N=CN(C)CC)C | C23H25ClN4OS
